US05891895
To a solution of 2-(3-bromo-4-fluorobenzoyl)-3-methoxymethoxypyridine (4.68 g) in dimethyl sulfoxide (50 mL) was added potassium cyanide (2.7 g) at 0° C. The mixture was stirred for 3 hours while raising the temperature to room temperature. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The extract solution was washed with water and a saturated aqueous saline solution, successively, and dried (sodium sulfate) and then concentrated. The concentrate was purified by means of a silica gel column (ethyl acetate--hexane) to afford 2-(3-bromo-4-cyanobenzoyl)-3-methoxymethoxypyridine (4.59 g) (compound B-6). Physical properties and spectrum date of the product are shown in Table 3 and Table 4.

reactant | 2-(3-bromo-4-fluorobenzoyl)-3-methoxymethoxypyridine | 4.68 g | BrC=1C=C(C(=O)C2=NC=CC=C2OCOC)C=CC1F | C14H11BrFNO3
reactant | potassium cyanide | 2.7 g | [C-]#N.[K+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
product | 2-(3-bromo-4-cyanobenzoyl)-3-methoxymethoxypyridine | 4.59 g | BrC=1C=C(C(=O)C2=NC=CC=C2OCOC)C=CC1C#N | C15H11BrN2O3
